US08217200B2
2-chloroethoxy-acetic acid-N,N-dimethylamide
40 ml of dichloromethane are transferred into a round bottom flask of 250 ml volume and 30.0 g (0.2 mol) 2-hydroxyethoxy-acetic acid-N,N-dimethylamide are added. The vessel is cooled on ice and 25.0 g (0.21 mole) of thionyl chloride are added to it dropwise in 10 minutes. The reaction mixture is stirred at room temperature for 20 minutes, and the solvent is evaporated in vacuo (260 Pa) at 50° C. Thus 33.2, g (99%) of title compound are obtained, which has higher purity than 95% by gas chromatographic analysis. Optionally the product can be purified by vacuum distillation (boiling temperature 85-86° C. at 1.3 Pa).

reactant | 2-hydroxyethoxy-acetic acid-N,N-dimethylamide | 0.2 mol, 30.0 g | CN(C(COCCO)=O)C | C6H13NO3
reactant | thionyl chloride | 0.21 mole, 25.0 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-chloroethoxy-acetic acid-N,N-dimethylamide | CN(C(COCCCl)=O)C | C6H12ClNO2
